US05405865
Stage A: ethyl 4-oxo-2-(2,2,2-trifluoro-1-oxoethyl)pentanoate.
36.8 g of ethyl 4,4,4-trifluoroacetoacetate were mixed in 400 ml of tetrahydrofuran and 9.6 g of sodium hydride were added at 15° C. over 30 minutes. The mixture was stirred at 20° C. for 1 hour and 0.4 g of potassium iodide and 100 ml of acetone were added. 21 g of chloroacetone in 75 ml of tetrahydrofuran were added dropwise over 15 minutes and the mixture was refluxed for 96 hours and then distilled to obtain 24.4 g of the expected product with a boiling point of 65° C. (0.2 mbar).

reactant | ethyl 4,4,4-trifluoroacetoacetate | 36.8 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | chloroacetone | 21 g | ClCC(C)=O | C3H5ClO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | potassium iodide | 0.4 g | [I-].[K+]
product | ethyl 4-oxo-2-(2,2,2-trifluoro-1-oxoethyl)pentanoate | 24.4 g | O=C(CC(C(=O)OCC)C(C(F)(F)F)=O)C | C9H11F3O4
